Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pelvic mass and uterine fibroid.

 
Major Surgical or Invasive Procedure:
Total abdominal hysterectomy, bilateral salpingo-oophorectomy.

 
History of Present Illness:
Ms. ___ is a ___, postmenopausal female, who 
was found to have a left-sided pelvic mass on routine exam.  
.
Pelvic ultrasound revealed large left adnexal mass. Pelvic MRI 
was done which revealed a 7.9cm left ovarian mass with some 
imaging features suggestive a fibroma/fibrothecoma but other 
features atypical for this diagnosis. There was also a 
multi-fibroid uterus with material within the endometrial cavity 
at the level of the fundus.  A preoperative CA-125 was 17.  An 
endometrial biopsy showed inactive endometrium.  She presents 
today for definitive surgical management.  
.
She reports baseline urinary frequency, urgency, irritable bowel 
and abdominal bloating. She denies any vaginal bleeding or 
abdominal/pelvic pain. 

 
Past Medical History:
PMH: R Breast Dysplasia, Hypercholesterolemia, Anxiety, 
Osteoarthritis, Hypothyroidism, Herpes.

PSH:L leg muscle graft, knee arthroscopy, R hand ganglion cyst 
removal, R thyroid lobe removal. 

OB/GYN: G3P1, post-menopausal, last Pap ___ no hx abnl paps, 
STIs, gyn dx.

 
Social History:
___
Family History:
no h/o ovarian, breast, uterine or colon cancer. 

 
Physical Exam:
On day of discharge:
Afebrile, vitals stable
General: No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: nontender, nonedematous

 
Pertinent Results:
___ 06:05AM BLOOD WBC-12.1* RBC-4.01* Hgb-12.7 Hct-37.8 
MCV-94 MCH-31.8 MCHC-33.7 RDW-14.7 Plt ___

___ 06:05AM BLOOD Neuts-71.7* ___ Monos-5.6 Eos-1.9 
Baso-0.5

___ 06:05AM BLOOD Plt ___

___ 06:05AM BLOOD Glucose-100 UreaN-11 Creat-0.6 Na-139 
K-4.4 Cl-104 HCO3-28 AnGap-11

___ 06:05AM BLOOD Calcium-8.0* Phos-3.2 Mg-1.9
 
Brief Hospital Course:
Ms. ___  ___ was admitted to the gynecologic oncology 
service after undergoing total abdominal hysterectomy, bilateral 
salpingo-oophorectomy, and washings. Please see the operative 
report for full details.  
.
Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with IV 
Dilaudid/Toradol. Her diet was advanced without difficulty and 
she was transitioned to PO Oxycodone and Ibuprofen. On 
post-operative day #1, her urine output was adequate so her 
Foley catheter was removed and she voided spontaneously. 
.
By post-operative day #1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
hydrocodone 5 mg-acetaminophen 325 mg PO QID 
ibuprofen 800 mg PO BD prn pain 
levothyroxine 100 mcg, 1 tablet QD for 5 days, 1.5 tablets for 2 
days/wk
sertraline 100 mg, PO, QD 
simvastatin 40 mg, PO, QD 
valacyclovir 500 mg, PO, BD for 4 days prn breakout 

 
Discharge Medications:
1. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*60 Tablet Refills:*1
2. Docusate Sodium 100 mg PO BID 
Take to prevent constipation while taking narcotics. 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*1
3. Levothyroxine Sodium 150 mcg PO 2X/WEEK (MO,FR) 
4. Levothyroxine Sodium 100 mcg PO 5X/WEEK (___) 
5. Sertraline 100 mg PO DAILY 
6. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
Do not exceed 4000 mg of acetaminophen in 24h. Do not drive. 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every four (4) hours Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Benign ovarian fibroma and fibroid uterus.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 

* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 12 
weeks.  
* No heavy lifting of objects >10 lbs for 6 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  
.
Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.    

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

 
Followup Instructions:
___